US06525220B2
N-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-methoxyphenyl]-N-methylcarbamic acid t-butyl ester (Exemplification Compound Number 9-8)
To a suspension at 0° C. of N-(2-amino-5-methoxyphenyl)-N-methylcarbamic acid t-butyl ester (4.2 g) and 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (5.2 g) in methylene chloride (30 ml) was added triethylamine (5.1 ml) and 50% propylphosphonic acid cyclic anhydride in ethyl acetate (12.7 g) and the mixture was stirred at the same temperature for 2 hours. At the end of this time to the reaction mixture was added 5% aqueous sodium hydrogencarbonate solution and the mixture was extracted with methylene chloride. The extract was washed with water and diluted hydrochloric acid and concentrated in vacuo. To the residue was added methanol (40 ml) and the precipitated crystals were filtered to give the title compound (7.3 g, yield 85%).

reactant | N-(2-amino-5-methoxyphenyl)-N-methylcarbamic acid t-butyl ester | 4.2 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OC)N)=O | C13H20N2O3
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 5.2 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | triethylamine | 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 12.7 g | C(C)(=O)OCC | C4H8O2
product | N-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-methoxyphenyl]-N-methylcarbamic acid t-butyl ester | 7.3 g, yield 85% | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OC)NC(COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)=O)=O | C25H29N3O7S
